US05707994
(6) 4-Amidinobenzoic acid hydrochloride
4-Amidinobenzamide (commercially available one, 7.8 g) is dissolved in water (200 ml), and thereto is added conc. hydrochloric acid (200 ml), and the mixture is stirred at a temperature below 100° C. for 9 hours. The mixture is cooled, and the precipitated crystals are collected by filtration.

reactant | 4-Amidinobenzamide | C(N)(=N)C1=CC=C(C(=O)N)C=C1 | C8H9N3O
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
product | 4-Amidinobenzoic acid hydrochloride | Cl.C(N)(=N)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C8H8N2O2.ClH/c9-7(10)5-1-3-6(4-2-5)8(11)12;/h1-4H,(H3,9,10)(H,11,12);1H
